US06794400B2
4-Benzyl-1-(pyridin-2-ylmethylidene)thiosemicarbazide
The title compound was prepared from a mixture of 4-benzylthiosemicarbazide (100 mg, 0.552 mmol) and 2-pyridinecarboxaldehyde (52 μL, 0.552 mmol) similar to Example 3 and isolated as a pale white solid (83 mg, 59%). 1H NMR (DMSO-d6): 11.84 (s, 1H), 9.27 (t, J=5.7 Hz, 1H), 8.57 (d, J=4.8 Hz, 1H), 8.30 (d, J=8.1 Hz, 1H), 8.13 (s, 1H), 7.83 (t, J=7.7 Hz, 1H), 7.40-7.31 (m, 3H), 7.26 (d, J=4.8 Hz, 1H), 4.86 (d, J=6.0 Hz, 2H).

reactant | 4-benzylthiosemicarbazide | 0.552 mmol, 100 mg | C(C1=CC=CC=C1)NC(NN)=S | C8H11N3S
reactant | 2-pyridinecarboxaldehyde | 0.552 mmol, 52 μL | N1=C(C=CC=C1)C=O | C6H5NO
product | 4-Benzyl-1-(pyridin-2-ylmethylidene)thiosemicarbazide | C(C1=CC=CC=C1)NC(NN=CC1=NC=CC=C1)=S | C14H14N4S
